US07402672B2
3-(2,5-Dichloro-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-13
Treat 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide 6a-1 (1.0 equiv) in DMF with bis-(2,5-dichlorophenyl)disulfide (1.1 equiv) as described in General Synthetic Procedure IVb to provide Ia-13 as an ivory colored solid. 1H NMR (DMSO-d6) δ 12.68 (bs, 1H), 8.46 (dd, 1H, J=1.3, 4.5 Hz), 8.10 (bs, 1H), 7.94 (dd, 1H, J=1.2, 8.2 Hz), 7.77 (bs, 1H), 7.52 (apparent d, 1H, J=8.5 Hz), 7.35 (dd, 1H, J=4.5, 8.4 Hz), 7.20 (dd, 1H, J=2.5, 8.5 Hz), 6.37 (apparent d, 1H, J=2.5 Hz); MS Obs 338.1 (M+1).

reactant | 1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | N1C(=CC2=NC=CC=C21)C(=O)N | C8H7N3O
reactant | bis-(2,5-dichlorophenyl)disulfide | 1.1 equiv | ClC1=C(C=C(C=C1)Cl)SSC1=C(C=CC(=C1)Cl)Cl | C12H6Cl4S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(2,5-Dichloro-phenylsulfanyl)-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | ClC1=C(C=C(C=C1)Cl)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H9Cl2N3OS
